US04421758
(b) Trans-1-[6-(2,6-dichlorobenzyloxy)tetrahydropyran-2-ylmethyl]imidazole
196 mg of 55% sodium hydride were added to a solution of 306 mg of imidazole in 14 ml of dimethylformamide and the mixture was stirred at 80° C. for 30 minutes. The mixture was then cooled to room temperature, after which 1.335 g of trans-6-(2,6-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran and 450 mg of sodium iodide were added thereto; the mixture was then stirred at 80°-85° C. for 2 hours. At the end of this time, the mixture was treated and purified essentially as described in Example 1(b), to give 965 mg of the title compound in the form of a colourless oil.

reactant | sodium hydride | 196 mg | [H-].[Na+]
reactant | imidazole | 306 mg | N1C=NC=C1 | C3H4N2
reactant | trans-6-(2,6-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 1.335 g | ClC1=C(CO[C@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C(=CC=C1)Cl | C20H22Cl2O5S
reactant | sodium iodide | 450 mg | [I-].[Na+]
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | Trans-1-[6-(2,6-dichlorobenzyloxy)tetrahydropyran-2-ylmethyl]imidazole | 965 mg | ClC1=C(CO[C@H]2CCC[C@@H](O2)CN2C=NC=C2)C(=CC=C1)Cl | C16H18Cl2N2O2
